US06890942B2
3-Hydroxy-4-oxo-4-(toluene-4-sulfonylamino)-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide
2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide (309 mg, 1 mmol) and toluene-4-sulfonamide (171 mg, 1 mmol) were dissolved in 2 mL of THF. To this was added 40 mg of NaH (60% dispersion in mineral oil) and the resulting mixture stirred overnight. The reaction was quenched with 1N HCl and extracted with EtOAc. The organic layer was dried over Na2SO4, filtered and solvent removed to yield an oily solid. The product was triturated with MeOH to yield 80 mg solid (19% yield). HRMS (M−H) calcd for C19H18FN2O6S: 412.0870. Found: 421.0876. Anal calcd for C19H19FN2O6S: C, 54.02; H, 4.53; N, 6.63. Found: C, 54.07; H, 4.51; N, 6.51. 1H NMR (500 MHz, CDCl3) δ: 2.44 (s, 3), 3.64 (s, 3), 4.76 (s, 2), 6.45 (s, 1), 7.03 (m, 2), 7.25 (m, 2), 7.35 (d, 2, J=8), 8.00 (d, 2, J=8), 9.11 (s, 1). 13C NMR (125 MHz, CDCl3) δ: 21.68, 48.21, 63.07, 92.21, 115.67, 115.84, 128.70, 129.64, 130.18, 131.01, 135.14, 145.55, 158.85, 159.30, 161.60, 163.56, 170.87.

reactant | 2-(2,2-Dimethyl-5-oxo-[1,3]dioxolan-4-ylidene)-N-(4-fluoro-benzyl)-N-methoxy-acetamide | 1 mmol, 309 mg | CC1(OC(C(O1)=CC(=O)N(OC)CC1=CC=C(C=C1)F)=O)C | C15H16FNO5
reactant | toluene-4-sulfonamide | 1 mmol, 171 mg | C1(=CC=C(C=C1)S(=O)(=O)N)C | C7H9NO2S
reactant | NaH | 40 mg | [H-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-4-oxo-4-(toluene-4-sulfonylamino)-but-2-enoic acid (4-fluoro-benzyl)-methoxy-amide | 80 mg, 19% yield | FC1=CC=C(CN(C(C=C(C(NS(=O)(=O)C2=CC=C(C=C2)C)=O)O)=O)OC)C=C1 | C19H19FN2O6S
